US09315495B2
To 8 mL dimethylformamide at room temperature was added phosphorous oxychloride (4.0 mL, 43.33 mmol) dropwise. After stirring for 10 minutes at room temperature, 2-(3,3,3-trifluoropropoxyl)thiophene (1.70 g, 8.67 mmol) as a solution in 8 mL dimethylformamide. The resulting solution was heated to 100° C. for 15 minutes. After cooling to room temperature, the reaction mixture was poured into 100 mL of ice-water and stirred vigorously for 5 minutes. Sodium bicarbonate (11 g) was added carefully and the mixture stirred until homogeneous. Organics were extracted with ether (3×100 mL), washed with water (3×50 mL), brine (50 mL), dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (0-20% ethyl acetate in hexanes) to give 5-(3,3,3-trifluoropropoxyl)thiophene-2-carbaldehyde (761 mg, 39%) as an off-white solid. Used without further characterization.

reactant | phosphorous oxychloride | 43.33 mmol, 4.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(3,3,3-trifluoropropoxyl)thiophene | 8.67 mmol, 1.70 g | FC(CCOC=1SC=CC1)(F)F | C7H7F3OS
reactant | Sodium bicarbonate | 11 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 5-(3,3,3-trifluoropropoxyl)thiophene-2-carbaldehyde | 761 mg, 39% | FC(CCOC1=CC=C(S1)C=O)(F)F | C8H7F3O2S
